US04376733
A solution of 1 part 4, 4-diphenylcyclohex-2-en-1-one,one part of either potassium superoxide or potassium hydroxide and 2 parts 18-crown-6 in 200 parts of benzene is stirred for 16 hours at room temperature either in dry air or an oxygen atmosphere. In the potassium superoxide case the reaction can also be run in an argon atmosphere. The reaction mixture is neutralized with dilute acid and washed with sodium bicarbonate solution to remove acidic products. The organic layer is dried over magnesium sulfate and the solvent is removed under vacuum. The product is purified by preparative TLC with benzene as eluent. Recrystallization from a benzene-petroleum ether solvent mixture yielded pure crystals of 2-hydroxy-4,4-diphenylcyclohexa-2,5-dien-1-one melting at 145° C. This compound was characterized by a correct elemental analysis (calculated: C-82.44, H-5.34; Experimental: C-82.21, H-5.42) and by its spectral data: 1H NMR (CDCl3) δ 6.35 (d,J=10 Hz,1H) 6.50 (s,1H); 7.33 (m,12H); IR (Nujol) 3360 and 1640 cm-1 ; M.S. (70 ev) m/e 262 (M+).

reactant | potassium superoxide | O=O.[K+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | oxygen | O=O | O2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 2-hydroxy-4,4-diphenylcyclohexa-2,5-dien-1-one | OC=1C(C=CC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C18H14O2
